US07960349B2
To a solution of methyl 2-methoxy-3-(1-trityl-1H-imidazol-4-yl)propanoate (0.0592 g, 0.139 mmol) in tetrahydrofuran (1 mL), methanol (1 mL) and water (0.5 mL) was added 2N NaOH (0.278 mL) and the reaction mixture was stirred for 1.75 hrs. The organic solvents were removed and 1 N KHSO4 (5 mL) and ethyl acetate (10 mL) were added. The organic phase was washed with water (2×5 mL), then saturated sodium chloride (1×5 mL) and dried over MgSO4. The combined aqueous layers were re-extracted with DCM (2×10 mL), and dried over MgSO4—Solvent removal and drying in vacuo yielded 0.0552 g (96%) of 92.6% pure 2-methoxy-3-(1-trityl-1H-imidazol-4-yl)propanoic acid; retention time, 6.80 min.; column: Phenomenex Luna C18(2) (5 μm, 50×4.6 mm); gradient: 10% to 100% B in A over 10 min. at 1.25 mL/min. Solvent A: 0.1% TFA in water, Solvent B: 0.1% TFA in AcCN. LC/MS: ESI (M+H)+=413.1. 1H-NMR (CDCl3, 500 MHz): δ 3.10-3.18 (m, 1H), 3.31-3.38 (m, 1H), 3.45 (s, 3H), 4.26-4.31 (m (1H), 6.86 (s, 1H), 7.04-7.11 (m, 6H), 7.37-7.47 (m, 9H), 8.16 (s, 1H).

reactant | methyl 2-methoxy-3-(1-trityl-1H-imidazol-4-yl)propanoate | 0.139 mmol, 0.0592 g | COC(C(=O)OC)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H26N2O3
reactant | NaOH | 2N, 0.278 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
product | 2-methoxy-3-(1-trityl-1H-imidazol-4-yl)propanoic acid | 0.0552 g | COC(C(=O)O)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H24N2O3
